US08022062B2
7-Chloro-6-(5-chloro-thiophen-2-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride
Use a method similar to the Example 387, using 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine and 2-chloro-5-(chloromethyl)thiophene to give, after hydrochloride formation by the General Procedure 2-2, the title compound as a brown solid. MS (APCI+) m/z: 344 (M+H)+.

reactant | 3-tert-butoxycarbonyl-7-chloro-6-dimethylcarbamoylthio-2,3,4,5-tetrahydro-1H-benzo[d]azepine | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C(=C(C=C2)Cl)SC(N(C)C)=O | C18H25ClN2O3S
reactant | 2-chloro-5-(chloromethyl)thiophene | ClC=1SC(=CC1)CCl | C5H4Cl2S
reactant | hydrochloride | Cl | ClH
product | 7-Chloro-6-(5-chloro-thiophen-2-ylmethylthio)-2,3,4,5-tetrahydro-1H-benzo[d]azepine Hydrochloride | Cl.ClC1=C(C2=C(CCNCC2)C=C1)SCC=1SC(=CC1)Cl | InChI=1S/C15H15Cl2NS2.ClH/c16-13-3-1-10-5-7-18-8-6-12(10)15(13)19-9-11-2-4-14(17)20-11;/h1-4,18H,5-9H2;1H
